US05023334
Preparation of acetic acid [1-(4-pyridinyl)ethylidene]hydrazide, Compound 136
A mixture of 2.22 gm (0.03 mole) of acetic acid hydrazide, 3.63 gm (0.03 mole) of 4-acetylpyridine and 100 ml of absolute ethanol is refluxed 2 hr. The hot solution is filtered. The filtrate is diluted with water to the cloud point. The mixture is cooled to room temperature and then chilled in the refrigerator. The product is collected, washed with water and dried to yield 3.63 gm (69%) of the title compound having a melting point of 178.1° C.

reactant | acetic acid hydrazide | 0.03 mole, 2.22 gm | C(C)(=O)NN | C2H6N2O
reactant | 4-acetylpyridine | 0.03 mole, 3.63 gm | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | acetic acid [1-(4-pyridinyl)ethylidene]hydrazide | 3.63 gm, 69% | N1=CC=C(C=C1)C(C)=NNC(C)=O | C9H11N3O
